US04293454
1,3-Bis(2,2,2-trichloro-1-hydroxyethyl)-1,3-bis(2-hydroxyethyl)thiourea
To 98.4 g (0.6 mole) of 1,3-bis(2-hydroxyethyl)-thiourea at 65° C. was slowly added 182 g (1.24 moles) of chloral while the temperature was maintained below 75° C. by means of external cooling. The reaction mixture was vigorously stirred and heated at 80° C. for 1 hour. On cooling 275 g of a viscous syrupy product was isolated.

reactant | 1,3-bis(2-hydroxyethyl)-thiourea | 0.6 mole, 98.4 g | OCCNC(=S)NCCO | C5H12N2O2S
reactant | chloral | 1.24 moles, 182 g | O=CC(Cl)(Cl)Cl | C2HCl3O
product | 1,3-Bis(2,2,2-trichloro-1-hydroxyethyl)-1,3-bis(2-hydroxyethyl)thiourea | ClC(C(O)N(C(=S)N(CCO)C(C(Cl)(Cl)Cl)O)CCO)(Cl)Cl | C9H14Cl6N2O4S
